US08486943B2
[(S)-7-cyano-4-(3-fluoro-2-hydroxybenzyl)-1,2,3,4-tetrahydrocyclopenta[b]indol-2-y]-carbamic acid isopropyl ester
To a solution of (S)-isopropyl 7-cyano-4-(3-fluoro-2-methoxybenzyl)-1,2,3,4-tetrahydrocyclopenta[b]indol-2-ylcarbamate (1.88 g, 4.46 mmol) in dichloromethane (50 mL) is added 1 M boron tribromide in dichloromethane (13.4 mL, 13 4 mmol) at 0° C. and stirred overnight. The reaction is quenched with slightly wet acetonitrile. The volatiles are removed under reduced pressure and the residue is dried under high vacuum. It is then purified by column chromatography with 5% ethyl acetate in chloroform to obtain a yellow solid. The solid is suspended in a minimum amount of dichloromethane and allowed to sit at room temperature. White solids crash out. They are filtered and briefly rinsed with dichloromethane. The mother liquor is concentrated and the procedure is repeated with the residue three times. The white solids are combined to afford the title compound (1.17 g, 64%). LC-ES m/z 408.2 [M+H]+, TR=4.08 min.

reactant | (S)-isopropyl 7-cyano-4-(3-fluoro-2-methoxybenzyl)-1,2,3,4-tetrahydrocyclopenta[b]indol-2-ylcarbamate | 4.46 mmol, 1.88 g | C(#N)C1=CC=2C3=C(N(C2C=C1)CC1=C(C(=CC=C1)F)OC)C[C@H](C3)NC(OC(C)C)=O | C24H24FN3O3
reactant | boron tribromide | 1 M | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mmol, 13.4 mL | ClCCl | CH2Cl2
product | [(S)-7-cyano-4-(3-fluoro-2-hydroxybenzyl)-1,2,3,4-tetrahydrocyclopenta[b]indol-2-y]-carbamic acid isopropyl ester | 1.17 g, 64% | C(C)(C)OC(N[C@H]1CC2=C(N(C=3C=CC(=CC23)C#N)CC2=C(C(=CC=C2)F)O)C1)=O | C23H22FN3O3
